US05354766
50a) 2,5-Dihydro-5-(4'-methylbiphenyl-2-yl)-1,2,4 -triazol-3-one
1-[2-(4-Methylphenyl)benzoyl]semicarbazide (4.6 g) and phosphorus oxychloride (10.3 g) were suspended in benzene (100 ml), and the suspension was heated for 3 hours under reflux. The reaction mixture was concentrated to dryness under reduced pressure. To the residue was added water, and resulting crystalline precipitate was collected by filtration. Recrystallization from methanol afforded the title compound as colorless needles (3.4 g, 79%), m.p.245-246 ° C. (decomp.).

reactant | 1-[2-(4-Methylphenyl)benzoyl]semicarbazide | 4.6 g | CC1=CC=C(C=C1)C1=C(C(=O)NNC(=O)N)C=CC=C1 | C15H15N3O2
reactant | phosphorus oxychloride | 10.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,5-Dihydro-5-(4'-methylbiphenyl-2-yl)-1,2,4 -triazol-3-one | 3.4 g, 79% | CC1=CC=C(C=C1)C1=C(C=CC=C1)C1NC(NN1)=O | C15H15N3O
